US07605272B2
In a similar manner to Example 2, said crude 3-{2-[5-(4-methanesulfonylpiperidin-1-yl)-2-nitrophenyl]vinyl}-1H-indazole (0.23 g, 0.54 mmol) obtained in Step 1 was dissolved in ethanol (7.0 mL) and 2-[2-(1H-indazol-3-yl)vinyl]-4-(4-methanesulfonylpiperidin-1-yl)phenylamine was obtained from tin (0.19 g, 1.6 mmol) and concentrated hydrochloric acid (1.0 mL) at room temperature. In a similar manner to Example 29, a solution of 2-[2-(1H-indazol-3-yl)vinyl]-4-(4-methanesulfonylpiperidin-1-yl)phenylamine (0.22 g, 0.54 mmol) in THF (10 mL) was added with triethylamine (0.23 ml, 1.6 mmol) and 3-methylthiophenecarbonyl chloride (0.09 g, 0.54 mmol), followed by stirring at room temperature for 1 hour. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate solution, extracted with ethyl acetate and the organic layer was concentrated under reduced pressure to obtain crude (E)-N-{2-[2-(1H-indazol-3-yl)vinyl]-4-(4-methanesulfonylpiperidin-1-yl)phenyl}-3-methylthiophene-2-carboxamide. Further, Compound 227 (68 mg, 22%) was obtained using 4 mol/L hydrogen chloride-methanol solution (1.0 mL).

reactant | 2-[2-(1H-indazol-3-yl)vinyl]-4-(4-methanesulfonylpiperidin-1-yl)phenylamine | 0.54 mmol, 0.22 g | N1N=C(C2=CC=CC=C12)C=CC1=C(C=CC(=C1)N1CCC(CC1)S(=O)(=O)C)N | C21H24N4O2S
reactant | triethylamine | 1.6 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | 3-methylthiophenecarbonyl chloride | 0.54 mmol, 0.09 g | CC1=C(SC=C1)C(=O)Cl | C6H5ClOS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-N-{2-[2-(1H-indazol-3-yl)vinyl]-4-(4-methanesulfonylpiperidin-1-yl)phenyl}-3-methylthiophene-2-carboxamide | N1N=C(C2=CC=CC=C12)/C=C/C1=C(C=CC(=C1)N1CCC(CC1)S(=O)(=O)C)NC(=O)C=1SC=CC1C | C27H28N4O3S2
